US06852731B2
3-[(Allyloxy)methyl]-N-(4-chlorobenzyl)-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide
To a cold (0° C.), stirred solution of 0.82 mL of allyl alcohol in 12 mL of dry THF, under argon, is added 2.1 mL of a 2.5 M solution of butyllithium in hexanes. The solution is stirred for 5 min, then added via cannula to a cold (0° C.), stirred mixture of 1.25 g of ethyl 3-(bromomethyl)-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylate (Preparation 19) in 8 mL of dry DMF. The resulting solution is stirred at 0° C. for 20 min, then quenched with dil. HCl. Aqueous workup (EtOAc/dil HCl) followed by flash chromatography on silica using 3% MeOH in CH2Cl2 affords a mixture of ethyl and allyl esters (873 mg). A mixture of 165 mg of the mixed esters and 580 mg of p-chlorobenzylamine is heated at 120° C. for 18 h, then cooled and diluted with ether. The resulting solid is filtered, washed well with ether, and dried in vacuo. Flash chromatography of the solid on silica using 2% MeOH in CH2Cl2 provides 922 mg of the title compound as a pale yellow solid. Recrystallization from EtOAc affords glistening yellow prisms.

reactant | allyl alcohol | 0.82 mL | C(C=C)O | C3H6O
reactant | butyllithium | C(CCC)[Li]
reactant | ethyl 3-(bromomethyl)-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylate | 1.25 g | BrCC1=CSC2=C1N(C=C(C2=O)C(=O)OCC)C | C12H12BrNO3S
reactant | p-chlorobenzylamine | 580 mg | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 3-[(Allyloxy)methyl]-N-(4-chlorobenzyl)-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 922 mg | C(C=C)OCC1=CSC2=C1N(C=C(C2=O)C(=O)NCC2=CC=C(C=C2)Cl)C | C20H19ClN2O3S
